US09359362B2
Benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (400 mg, 874 μmol) was initially charged in abs. pyridine (15 ml). At 0° C., benzyl chloroformate was added in a plurality of portions (3×460 mg, 3×2621 μmol; 9 eq.), and the mixture was then stirred for 12 h with warming to RT. Once HPLC analysis showed substantial conversion, the reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (500 mg, quant.).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 874 μmol, 400 mg | NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C21H14F3N7
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | Benzyl {(7R)-6-cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}carbamate | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(OCC2=CC=CC=C2)=O)C2=CC(=CC=C2)C(F)(F)F)C | C29H20F3N7O2
